US07425640B2
5-Amino-2-tert-butoxycarbonylmethyl-2H-pyrazole-3-carboxylic acid methyl ester
A solution of 2-tert-Butoxycarbonylmethyl-5-nitro-2H-pyrazole-3-carboxylic acid methyl ester (3 gm) in ethyl acetate (60 ml) and acetic acid (4.5 ml) was hydrogenated at 50 psi hydrogen in the presence of 1.5 gm of 10% palladium/carbon for 3 hours. The mixture was then filtered and evaporated to obtain 2.62 gm of pure title product. ESI M+1=256.

reactant | 2-tert-Butoxycarbonylmethyl-5-nitro-2H-pyrazole-3-carboxylic acid methyl ester | 3 gm | COC(=O)C=1N(N=C(C1)[N+](=O)[O-])CC(=O)OC(C)(C)C | C11H15N3O6
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 4.5 ml | C(C)(=O)O | C2H4O2
catalyst | palladium/carbon | 1.5 gm | [Pd] | Pd
product | 5-Amino-2-tert-butoxycarbonylmethyl-2H-pyrazole-3-carboxylic acid methyl ester | 2.62 gm | COC(=O)C=1N(N=C(C1)N)CC(=O)OC(C)(C)C | C11H17N3O4
